.title KiCad schematic
.include "/home/jtmadden/repos/jlab/shiny-train/cap.lib"
.model __Q1 VDMOS NCHAN
.model __Q2 VDMOS NCHAN
.save all
.probe alli
.probe p(R3)
.probe p(MQ1)
.probe p(V1)
.probe p(V2)
.probe p(V3)
.probe p(MQ2)
.probe p(R1)
.probe p(XC2)
.tran 10m 2
R3 source Net-_R3-Pad2_ 2.2k
MQ1 source Net-_Q1-G_ C1 __Q1
V1 Net-_R3-Pad2_ GND PWL( 0 0 99m 0 100m 1 ) 
V2 Net-_Q1-G_ GND PWL( 0 0 199m 0 200m 1 ) 
V3 Net-_Q2-G_ GND PWL( 0 0 0.99 0 1 1 ) 
MQ2 source Net-_Q2-G_ load __Q2
R1 load GND 200
XC2 C1 GND C_real Cval=1m
.end
