.title KiCad schematic
*******************************************
*  Capacitor SPICE Model
*  Subckt Name: C105_cer
*  Parameterized version
*******************************************
*
.SUBCKT C_real 1 4 PARAMS: Resr=0.03 Rleak=100e12 Cval=1e-6 fo=1e6
*
.PARAM Lval={1/((2*3.14159265358979*fo)**2 * Cval)}
*
L1 1 2     {Lval}
R1 2 3     {Resr}
C1 3 4     {Cval}
R2 3 4     {Rleak}
.ENDS


.subckt C_ideal 1 2 PARAMS: C=1u ESR=10m ESL=1n RLEAK=1G

* Unused parameters are retained for interface compatibility.
C1 1 2 {C}

.ends
.model __S1 SW           vt=1           ron=1
.model __S2 SW           vt=1           ron=1
.save all
.probe alli
.probe p(S1)
.probe p(V2)
.probe p(V1)
.probe p(R3)
.probe p(R1)
.probe p(XC2)
.probe p(S2)
.probe p(V3)
.tran 10m 2
S1 source C1 Net-_S1-C+_ GND __S1
V2 Net-_S1-C+_ GND PWL( 0 0 199m 0 200m 1 ) 
V1 Net-_R3-Pad2_ GND PWL( 0 0 99m 0 100m 1 ) 
R3 source Net-_R3-Pad2_ 2.2k
R1 load GND 200
XC2 C1 GND C_ideal Cval=1m
S2 source load Net-_S2-C+_ GND __S2
V3 Net-_S2-C+_ GND PWL( 0 0 0.99 0 1 1 ) 
.end
