*---------------------------------------------------------------					
*  *** Spice model ***					
*					
*  Copyright (C) Panasonic Corporation					
*					
*  Conductive Polymer Tantalum Solid Capacitor (POSCAP)					
*					
*  Parts No. 6TCE150MF					
*---------------------------------------------------------------					
*  Capacitance : 150 É F    Rated Voltage : 6.3 V					
*  ESR Max. : 15 mÉ∂ @100 kHz					
*					
*  1  o---||---o  2					
*					
*  Conditions : Temperature = 20 Åé   DC Bias = 0 V					
*					
*---------------------------------------------------------------					
.SUBCKT	6TCE150MF	1	2		
R1	1	3	3.51E-03		
R2	3	4	2.81E-02		
R3	4	5	2.07E+01		
R4	5	6	1.31E+02		
R5	6	7	4.33E+02		
C1	3	8	1.05E-04		
C2	4	8	3.83E-05		
C3	5	8	2.33E-06		
C4	6	8	2.93E-06		
C5	7	8	4.67E-06		
R6	8	9	7.98E-03		
R7	9	10	7.71E-02		
R8	10	11	3.55E-01		
R9	11	12	7.62E+00		
R10	12	13	1.18E+02		
L1	9	2	2.09E-09		
L2	10	2	9.67E-08		
L3	11	2	7.28E-09		
L4	12	2	1.57E-08		
L5	13	2	1.75E-08		
.ENDS					
*$					
