*---------------------------------------------------------------					
*  *** Spice model ***					
*					
*  Copyright (C) Panasonic Corporation					
*					
*  Conductive Polymer Tantalum Solid Capacitor (POSCAP)					
*					
*  Parts No. 6TCF330M9L					
*---------------------------------------------------------------					
*  Capacitance : 330 É F    Rated Voltage : 6.3 V					
*  ESR Max. : 9 mÉ∂ @100 kHz					
*					
*  1  o---||---o  2					
*					
*  Conditions : Temperature = 20 Åé   DC Bias = 0 V					
*					
*---------------------------------------------------------------					
.SUBCKT	6TCF330M9L	1	2		
R1	1	3	1.75E-03		
R2	3	4	1.92E-02		
R3	4	5	1.27E+00		
R4	5	6	5.32E+01		
R5	6	7	2.99E+02		
C1	3	8	1.71E-04		
C2	4	8	1.13E-04		
C3	5	8	8.88E-06		
C4	6	8	4.71E-06		
C5	7	8	5.61E-06		
R6	8	9	4.64E-03		
R7	9	10	1.92E-01		
R8	10	11	2.51E+00		
R9	11	12	3.21E+01		
R10	12	13	2.60E+02		
L1	9	2	2.50E-09		
L2	10	2	9.61E-09		
L3	11	2	1.95E-08		
L4	12	2	3.13E-08		
L5	13	2	1.00E-13		
.ENDS					
*$					
