*---------------------------------------------------------------					
*  *** Spice model ***					
*					
*  Copyright (C) Panasonic Corporation					
*					
*  Conductive Polymer Tantalum Solid Capacitor (POSCAP)					
*					
*  Parts No. 4TCF680MAH					
*---------------------------------------------------------------					
*  Capacitance : 680 ÊF    Rated Voltage : 4 V					
*  ESR Max. : 10 m¶ @100 kHz					
*					
*  1  o---||---o  2					
*					
*  Conditions : Temperature = 20    DC Bias = 0 V					
*					
*---------------------------------------------------------------					
.SUBCKT	4TCF680MAH	1	2		
R1	1	3	2.30E-03		
R2	3	4	1.00E-02		
R3	4	5	8.23E-01		
R4	5	6	1.74E+01		
R5	6	7	1.01E+02		
C1	3	8	3.75E-04		
C2	4	8	3.05E-04		
C3	5	8	2.43E-05		
C4	6	8	1.55E-05		
C5	7	8	1.57E-05		
R6	8	9	5.17E-03		
R7	9	10	1.60E-01		
R8	10	11	2.11E+00		
R9	11	12	3.86E+01		
R10	12	13	4.19E+02		
L1	9	2	3.02E-09		
L2	10	2	1.19E-08		
L3	11	2	2.27E-08		
L4	12	2	5.10E-08		
L5	13	2	1.00E-13		
.ENDS					
*$					
