*---------------------------------------------------------------					
*  *** Spice model ***					
*					
*  Copyright (C) Panasonic Corporation					
*					
*  Conductive Polymer Tantalum Solid Capacitor (POSCAP)					
*					
*  Parts No. 4TCF470ML					
*---------------------------------------------------------------					
*  Capacitance : 470 É F    Rated Voltage : 4 V					
*  ESR Max. : 10 mÉ∂ @100 kHz					
*					
*  1  o---||---o  2					
*					
*  Conditions : Temperature = 20 Åé   DC Bias = 0 V					
*					
*---------------------------------------------------------------					
.SUBCKT	4TCF470ML	1	2		
R1	1	3	2.14E-03		
R2	3	4	1.62E-02		
R3	4	5	8.11E-01		
R4	5	6	3.79E+01		
R5	6	7	2.74E+02		
C1	3	8	2.30E-04		
C2	4	8	1.69E-04		
C3	5	8	1.41E-05		
C4	6	8	6.08E-06		
C5	7	8	5.72E-06		
R6	8	9	4.61E-03		
R7	9	10	1.91E-01		
R8	10	11	2.38E+00		
R9	11	12	3.49E+01		
R10	12	13	3.20E+02		
L1	9	2	2.48E-09		
L2	10	2	9.09E-09		
L3	11	2	2.03E-08		
L4	12	2	4.32E-08		
L5	13	2	1.00E-13		
.ENDS					
*$					
