*---------------------------------------------------------------					
*  *** Spice model ***					
*					
*  Copyright (C) Panasonic Corporation					
*					
*  Conductive Polymer Tantalum Solid Capacitor (POSCAP)					
*					
*  Parts No. 6TCF220ML					
*---------------------------------------------------------------					
*  Capacitance : 220 É F    Rated Voltage : 6.3 V					
*  ESR Max. : 12 mÉ∂ @100 kHz					
*					
*  1  o---||---o  2					
*					
*  Conditions : Temperature = 20 Åé   DC Bias = 0 V					
*					
*---------------------------------------------------------------					
.SUBCKT	6TCF220ML	1	2		
R1	1	3	6.59E-03		
R2	3	4	9.97E-02		
R3	4	5	1.14E-01		
R4	5	6	3.77E+01		
R5	6	7	2.88E+02		
C1	3	8	2.18E-04		
C2	4	8	2.28E-10		
C3	5	8	1.37E-05		
C4	6	8	4.17E-06		
C5	7	8	4.88E-06		
R6	8	9	1.41E-03		
R7	9	10	1.83E-03		
R8	10	11	2.37E-01		
R9	11	12	6.91E+00		
R10	12	13	1.88E+02		
L1	9	2	2.40E-09		
L2	10	2	1.00E-07		
L3	11	2	8.61E-09		
L4	12	2	2.13E-08		
L5	13	2	2.48E-08		
.ENDS					
*$					
