*---------------------------------------------------------------
*  *** Spice model ***
*
*  Copyright (C) Panasonic Industry Corporation
*
*  Conductive Polymer Aluminum Electrolytic Capacitor (SP-Cap)
*
*  Parts No. ECGSY0G471R
*---------------------------------------------------------------
*  Capacitance : 470 uF , Rated Voltage : 4 V
*  ESR Max. : 9 mohm @100kHz
*
*  1  o---||---o  2
*
*  Conditions : Temperature = 20 degC , DC Bias = 0 V
*
*---------------------------------------------------------------
.SUBCKT	ECGSY0G471R	1	2
R1	1	3	4.98E-03
R2	3	4	5.07E-01
R3	4	5	2.36E+01
R4	5	6	1.37E+02
R5	6	7	7.16E+02
C1	3	8	4.86E-04
C2	4	8	1.53E-05
C3	5	8	3.04E-06
C4	6	8	3.00E-06
C5	7	8	2.58E-06
R6	8	9	1.02E-03
R7	9	10	1.10E-02
R8	10	11	2.96E-01
R9	11	12	3.74E+00
R10	12	13	4.37E+01
L1	9	2	1.40E-09
L2	10	2	1.65E-09
L3	11	2	4.60E-09
L4	12	2	4.95E-09
L5	13	2	7.79E-09
.ENDS			
*$			
