*---------------------------------------------------------------
*  *** Spice model ***
*
*  Copyright (C) Panasonic Industry Corporation
*
*  Conductive Polymer Aluminum Electrolytic Capacitor (SP-Cap)
*
*  Parts No. EEFSX0G151E7
*---------------------------------------------------------------
*  Capacitance : 150 uF , Rated Voltage : 4 V
*  ESR Max. : 7 mohm @100kHz
*
*  1  o---||---o  2
*
*  Conditions : Temperature = 20 degC , DC Bias = 0 V
*
*---------------------------------------------------------------
.SUBCKT	EEFSX0G151E7	1	2
R1	1	3	1.00E-04
R2	3	4	2.53E-01
R3	4	5	1.78E+01
R4	5	6	3.40E+02
R5	6	7	1.72E+03
C1	3	8	1.42E-04
C2	4	8	1.16E-05
C3	5	8	2.69E-06
C4	6	8	9.70E-07
C5	7	8	8.88E-07
R6	8	9	1.03E-04
R7	9	10	3.18E-03
R8	10	11	2.03E-01
R9	11	12	6.40E+00
R10	12	13	1.31E+02
L1	9	2	1.41E-07
L2	10	2	1.58E-09
L3	11	2	7.89E-09
L4	12	2	1.77E-08
L5	13	2	2.63E-08
.ENDS			
*$			
