*******************************************
*  Capacitor SPICE Model
*  Subckt Name: C105_cer
*  Parameterized version
*******************************************
*
.SUBCKT C_real 1 4 PARAMS: Resr=0.03 Rleak=100e12 Cval=1e-6 fo=1e6
*
.PARAM Lval={1/((2*3.14159265358979*fo)**2 * Cval)}
*
L1    1     2     {Lval}
R1    2     3     {Resr}
C1    3     4     {Cval}
R2    3     4     {Rleak}
.ENDS


.subckt C_ideal 1 2 PARAMS: C=1u ESR=10m ESL=1n RLEAK=1G

* Unused parameters are retained for interface compatibility.
C1 1 2 {C}

.ends
