.title KiCad schematic
.include "/home/jtmadden/repos/jlab/shiny-train/cap.lib"
.model __S1 SW
+           vt=1
+           ron=1
.model __Q1 NMOS level=8
.model __S2 SW
+           vt=1
+           ron=1
S1 /source /C1 Net-_S1-C+_ GND __S1
V2 Net-_S1-C+_ GND PWL( 0 0 199m 0 200m 1 ) 
V1 Net-_R3-Pad2_ GND PWL( 0 0 99m 0 100m 1 ) 
R3 /source Net-_R3-Pad2_ 2.2k
R1 /LOAD GND 200
MQ1 unconnected-_Q1-D-Pad1_ unconnected-_Q1-G-Pad2_ unconnected-_Q1-S-Pad3_ NC-Q1-0 __Q1
XC2 /C1 GND C105_cer Cval=1m
S2 /source /LOAD Net-_S2-C+_ GND __S2
V3 Net-_S2-C+_ GND PWL( 0 0 0.99 0 1 1 ) 
.end
